US07863302B2
6-bromo-benzo[b]thiophene-2-carbaldehyde
To a −78° C. solution of oxalyl chloride (1.30 mL, 14.9 mol) in CH2Cl2 (20 mL) is added a solution of dimethyl sulfoxide (2.13 mL, 29.9 mmol) in CH2Cl2 (10 mL). The mixture is stirred for 5 minutes and a solution of (6-bromo-benzo[b]thiophen-2-yl)-methanol (2.91 g; 12.0 mmoles) in CH2Cl2 (30 mL) is added. The mixture is stirred at −78° C. for 30 minutes and triethylamine (8.34 mL, 60.0 mmol) is added. The mixture is stirred for 1 hour while warming to room temperature. The reaction mixture is quenched with water (50 mL). The organic layer is separated and concentrated under reduced pressure to a residue. The residue is purified via silica gel chromatography eluting with 20% EtOAc/Hexanes to provide the title compound (2.58 g, 89%). 1H NMR (400 MHz, CDCl3): δ 10.4 (s, 1H), 8.02 (s, 1H), 7.98 (s, 1H), 7.79 (d, 1H), 7.52 (d, 1H).

reactant | oxalyl chloride | 14.9 mol, 1.30 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 29.9 mmol, 2.13 mL | CS(=O)C | C2H6OS
reactant | (6-bromo-benzo[b]thiophen-2-yl)-methanol | 12.0 mmoles, 2.91 g | BrC=1C=CC2=C(SC(=C2)CO)C1 | C9H7BrOS
reactant | triethylamine | 60.0 mmol, 8.34 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-benzo[b]thiophene-2-carbaldehyde | 2.58 g, 89% | BrC=1C=CC2=C(SC(=C2)C=O)C1 | C9H5BrOS
